US06407096B1
8-acetoxy-4-(2-(diphenylmethoxy)ethyl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine
Anhydrous THF (15 ml) was added to sodium hydride (106 mg) to form a suspension, and a solution of 8-acetoxy-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (498 mg) in anhydrous DMF (5 ml) was added to the resulting suspension, and the mixture was stirred at room temperature for 1 hour. 2-diphenylmethoxyethyl bromide (980 mg) was added to the mixture, and the mixture was stirred at room temperature overnight. The reaction solution was poured into a 3% citric acid aqueous solution, and then extracted with ethyl acetate. The resultant organic layer was washed with water and saturated brine, dried over sodium sulfate, and then concentrated. The residue was purified by medium-pressure column chromatography (solvent:ethyl acetate/cyclohexane=1/3) to obtain the colorless oily object compound (640 mg, yield 66%).

reactant | sodium hydride | 106 mg | [H-].[Na+]
reactant | 8-acetoxy-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 498 mg | C(C)(=O)OC1=CC=CC=2NC(COC21)=O | C10H9NO4
reactant | 2-diphenylmethoxyethyl bromide | 980 mg | C1(=CC=CC=C1)C(OCCBr)C1=CC=CC=C1 | C15H15BrO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 8-acetoxy-4-(2-(diphenylmethoxy)ethyl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 640 mg, yield 66% | C(C)(=O)OC1=CC=CC=2N(C(COC21)=O)CCOC(C2=CC=CC=C2)C2=CC=CC=C2 | C25H23NO5
